US09145380B2
b) 7-Methyl-1,1-dioxo-1,4-dihydro-2-H-benzo[1,2,4]thiadiazin-3-one
p-Toluidine (11.00 g, 102.65 mmol) dissolved in nitromethane (50 mL) was added slowly over 20 minutes to a solution of chlorosulfonyl isocyanate (16.89 g, 119.40 mmol) in nitromethane (160 mL) at −5° C. The suspension was stirred at −5° C. for an additional 15 minutes and AlCl3 (17.00 g, 129.00 mmol) was added portionwise. The reaction mixture was then heated at 105° C. for 30 minutes. The hot solution was poured onto ice (1 L) and the resulting precipitate was filtered off and washed with water (300 mL). The solid was then dissolved in a hot aqueous sodium bicarbonate solution (10 g/200 mL), treated with charcoal, and filtered. The cooled solution was neutralized using 6N HCl and the resulting white precipitate was filtered off, washed with water and dried to afford the title compound (14 g, 64%).

reactant | p-Toluidine | 102.65 mmol, 11.00 g | NC1=CC=C(C=C1)C | C7H9N
reactant | chlorosulfonyl isocyanate | 119.40 mmol, 16.89 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | AlCl3 | 129.00 mmol, 17.00 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | nitromethane | 50 mL | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 160 mL | [N+](=O)([O-])C | CH3NO2
product | 7-Methyl-1,1-dioxo-1,4-dihydro-2-H-benzo[1,2,4]thiadiazin-3-one | 14 g, 64% | CC1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C8H8N2O3S
